US06239193B1
An ink comprised of 7 percent by weight of Levanyl A-SF carbon black obtained from Bayer Corporation, 20 percent by weight of sulfolane (obtained from Bayer), 5 percent by weight of trimethylopropane, 0.1 percent by weight of triethanolamine, and 1.5 percent by weight of the emulsion obtained from Example V (34.3 percent by weight of poly(methyl methacrylate-butyl acrylate-acrylic acid) resin, 2.0 percent by weight of polyethoxylated stearyl ether nonionic surfactant Brij 700™, and 63.7 percent by weight of water) was prepared by the addition of sulfolane, trimethylopropane, triethanolamine and resin emulsion in water through simple agitation using a stir bar for about 15 minutes. The resulting mixture was added to a stirring solution of Levanyl A-SF carbon black. The ink mixture resulting was stirred with a stir bar for about 5 to about 10 minutes, and the resulting ink mixture was filtered through a 1 μm glass fiber filter. The resulting ink was comprised of 7 percent by weight of Levanyl A-SF carbon black, 20 percent by weight of sulfolane, 5 percent by weight of trimethylopropane, 0.1 percent by weight of triethanolamine, 1.5 percent by weight of nonionic surfactant Brij 770™ stabilized poly(methyl methacrylate-butyl acrylate-acrylic acid) resin emulsion, and 66.4 percent by weight of water.

reactant | carbon black | C | CH4
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | water | O | H2O
product | methyl methacrylate-butyl acrylate acrylic acid | C(C=C)(=O)OCCCC.C(C(=C)C)(=O)OC.C(C=C)(=O)O | InChI=1S/C7H12O2.C5H8O2.C3H4O2/c1-3-5-6-9-7(8)4-2;1-4(2)5(6)7-3;1-2-3(4)5/h4H,2-3,5-6H2,1H3;1H2,2-3H3;2H,1H2,(H,4,5)
